US07214674B2
5-Fluoro-2-methylquinazoline (D13)
To a solution of 5-fluoro-2-methyl-3,4-dihydroquinazoline (0.74 g, 4.51 mmol) in chloroform (100 mL) at room temperature was added manganese (IV) oxide (4.0 g, 46.0 mmol) and the reaction mixture stirred at room temperature for 20 h. The reaction mixture was filtered through a plug of celite, washing with dichloromethane. The filtrate was evaporated in vacuo to give the title compound as a yellow solid (0.715 g, 98%).

reactant | 5-fluoro-2-methyl-3,4-dihydroquinazoline | 4.51 mmol, 0.74 g | FC1=C2CNC(=NC2=CC=C1)C | C9H9FN2
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese (IV) oxide | 46.0 mmol, 4.0 g | [O-2].[Mn+4].[O-2]
product | 5-Fluoro-2-methylquinazoline | 0.715 g, 98% | FC1=C2C=NC(=NC2=CC=C1)C | C9H7FN2
